US05990139
Synthesis of 4-{3-[1-(4-chlorophenyl)-2-imidazoli dinon-3-yl]propoxy}benzaldehyde (Compound No. 51)
A reaction was conducted in a manner similar to Referential Example 13 by using 1-(4-chlorophenyl)-2-imidazolidinone (Compound No. 2) in place of 1-(4-ethylphenyl)-2-imidazolidinone (Compound No. 1) and 4-(3-chloropropoxy)benzaldehyde in lieu of 4-(2-chloroethoxy)benzaldehyde, whereby the title compound was obtained in a yield of 34%.

reactant | 1-(4-chlorophenyl)-2-imidazolidinone | ClC1=CC=C(C=C1)N1C(NCC1)=O | C9H9ClN2O
reactant | 4-(3-chloropropoxy)benzaldehyde | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
reactant | 4-(2-chloroethoxy)benzaldehyde | ClCCOC1=CC=C(C=O)C=C1 | C9H9ClO2
product | 4-{3-[1-(4-chlorophenyl)-2-imidazoli dinon-3-yl]propoxy}benzaldehyde | yield of 34% | ClC1=CC=C(C=C1)N1C(N(CC1)CCCOC1=CC=C(C=O)C=C1)=O | C19H19ClN2O3
